US09034882B2
(S)-Methyl 2-(tert-butoxy)-2-(7-chloro-5-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-6-yl)acetate (50 mg, 0.13 mmol) was dissolved in DMF (1 mL) and treated with 3,3-dimethylpyrrolidine hydrochloride (17.5 mg, 0.13 mmol) followed by N,N-diisopropylethylamine (0.068 mL, 0.387 mmol). This reaction mixture was stirred at rt for 18 h. The reaction mixture was partitioned between ether and water, and the organic phase was washed with water (2×). The organic phase was dried (MgSO4) and concentrated to give 35 mg of the ester product as a yellow oil. (S)-methyl 2-(tert-butoxy)-2-(7-(3,3-dimethylpyrrolidin-1-yl)-5-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-6-yl)acetate (34 mg, 0.075 mmol) was dissolved in ethanol (1 mL) and treated with 1M NaOH (0.226 mL, 0.226 mmol). The reaction mixture was stirred at rt for 18 h to complete the ester hydrolysis. The crude reaction mixture was partitioned between EtOAc and 1N HCl. The organic phase was dried (Na2SO4) and concentrated. The residue was purified by Biotage (2-10% MeOH/CH2Cl2) to give 12 mg of (S)-2-(tert-butoxy)-2-(7-(3,3-dimethylpyrrolidin-1-yl)-5-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid as a white solid.

reactant | (S)-methyl 2-(tert-butoxy)-2-(7-(3,3-dimethylpyrrolidin-1-yl)-5-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.075 mmol, 34 mg | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=NC=2N(C1N1CC(CC1)(C)C)N=C(C2)C2=CC=CC=C2)C | C26H34N4O3
reactant | NaOH | 0.226 mmol, 1M, 0.226 mL | [OH-].[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | (S)-2-(tert-butoxy)-2-(7-(3,3-dimethylpyrrolidin-1-yl)-5-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid | 12 mg | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC=2N(C1N1CC(CC1)(C)C)N=C(C2)C2=CC=CC=C2)C | C25H32N4O3
